US03956334
Under agitation, a solution of 12 g. of N-chloropiperidine in 15 ml. of concentrated sulfuric acid is added dropwise within 10 minutes to a mixture of 24.2 g. of 2-methyl-2-(4-phenylphenoxy)-propanol (obtainable from 4-hydroxy-diphenyl and 2-bromo-2-methylpropanol), 7 g. of iron(II) sulfate heptahydrate, 8 ml. of concentrated sulfuric acid, and 3 ml. of water. The mixture is agitated for 15 minutes at 20°, then poured on ice water, washed with ether, made alkaline with sodium hydroxide solution, and extracted with chloroform. From the extract, after evaporation, one obtains 2-methyl-2-[4-(4-piperidinophenyl)-phenoxy]-propanol, m.p. 158°-160°.

reactant | N-chloropiperidine | ClN1CCCCC1 | C5H10ClN
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 2-methyl-2-(4-phenylphenoxy)-propanol | CC(CO)(C)OC1=CC=C(C=C1)C1=CC=CC=C1 | C16H18O2
catalyst | iron(II) sulfate heptahydrate | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Fe+2]
solvent | water | O | H2O
product | 2-methyl-2-[4-(4-piperidinophenyl)-phenoxy]-propanol | CC(CO)(C)OC1=CC=C(C=C1)C1=CC=C(C=C1)N1CCCCC1 | C21H27NO2
